US07723329B2
A solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (0.378 g, 0.800 mmol) and isopropylamine (1.0 mL, 12 mmol) in THF (8 mL) was stirred at 70° C. for 6 hours in a sealed tube. Additional isopropyl amine (1.0 mL, 12 mmol) was added, and the reaction mixture was stirred at 80° C. for 6 hours in a sealed tube. After cooling somewhat, the reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 10% methanol in chloroform. After drying in vacuo at 80° C. for 30 minutes, [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-isopropyl-amine as a pale yellow solid was obtained (0.110 g, 38.2%). This was dissolved in methanol and chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 74° C. for 13.5 hours to yield the hydrochloride as an off-white solid (0.117 g): MP: 275-7° C. (dec); Mass Spectrum (+EI, [M+H]+) m/z 360. 1HNMR (500 MHz, DMSO-d6): δ14.22 (br, 1H), 8.75 (br, 2H), 7.96-7.98 (m, 2H), 7.56-7.68 (m, 4H), 7.41 (d, 1H, J=2.08 Hz), 7.19 (dd, 1H, J=9.15 Hz and 2.32 Hz), 4.30-4.33 (m, 2H), 3.34-3.40 (m, 3H), 1.25 ppm (d, 6H, J=6.59 Hz). Elemental Analysis for C18H21N3O3S.1.00 mol HCl.0.10 mol H2O: Calcd: C, 54.36; H, 5.36; N, 10.57; Found: C, 54.02; H, 5.42; N, 10.22.

reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 0.800 mmol, 0.378 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | isopropylamine | 12 mmol, 1.0 mL | C(C)(C)N | C3H9N
reactant | isopropyl amine | 12 mmol, 1.0 mL | C(C)(C)N | C3H9N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-isopropyl-amine | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCNC(C)C | C18H21N3O3S
